US04532242
Using the method of Example 19, 2-ethylthio-4-hydrazino-6-phenylpyrimidine was reacted with triethyl orthoacetate to provide 5-ethylthio-3-methyl-7-phenyl-1,2,4-triazolo[4,3-c]pyrimidine which was recrystallized from a 50/50 mixture of ethyl acetate/cyclohexanes to provide white crystals of 5-ethylthio-3-methyl-7-phenyl-1,2,4-triazolo[4,3-c]pyrimidine, m.p. 219.5°-220° C.

reactant | 2-ethylthio-4-hydrazino-6-phenylpyrimidine | C(C)SC1=NC(=CC(=N1)NN)C1=CC=CC=C1 | C12H14N4S
reactant | triethyl orthoacetate | C(C)(OCC)(OCC)OCC | C8H18O3
product | 5-ethylthio-3-methyl-7-phenyl-1,2,4-triazolo[4,3-c]pyrimidine | C(C)SC1=NC(=CC=2N1C(=NN2)C)C2=CC=CC=C2 | C14H14N4S
